US07642270B2
B. 1-(4-Amino-phenoxy)-3-dimethylamino-propan-2-ol
To a solution of 2-(4-nitro-phenoxymethyl)-oxirane (0.2 g, 1 mmol) in 2 mL of ethanol was added a solution of dimethylamine (2 M in methanol, 2.5 mL). The solution was stirred at 80° C. for 2 hours in a capped vial. The solvent was removed in vacuo. Hydrogenation of the residue using the procedure described in Example 1(f) gave the title compound as a brown solid. 1H NMR (300 MHz, CD3OD) δ (ppm): 6.76 (m, 2H), 6.71 (m, 2H), 4.20 (m, 1H), 3.88 (d, 2H), 3.04 (m, 2H), 2.71 (s, 6H).

reactant | 2-(4-nitro-phenoxymethyl)-oxirane | 1 mmol, 0.2 g | [N+](=O)([O-])C1=CC=C(OCC2OC2)C=C1 | C9H9NO4
reactant | dimethylamine | 2 M, 2.5 mL | CNC | C2H7N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(4-Amino-phenoxy)-3-dimethylamino-propan-2-ol | NC1=CC=C(OCC(CN(C)C)O)C=C1 | C11H18N2O2
